US04182758
48% Hydrogen bromide-acetic acid (1 ml) was added under ice-cooling to a solution of 3-[N-(N-benzyloxycarbonyl-aminoacetyl)-N-hydroxyamino]propylphosphonic acid (200 mg) in acetic acid (1 ml) and the reaction mixture was stirred at an ambient temperature for an hour. To the resultant mixture was added dry ethyl ether (20 ml) to precipitate an oil. The oil was separated, washed twice with dry ethyl ether (10 ml) and then dissolved in water (0.5 ml). The solution was adjusted to pH 4 with pyridine and ethanol (5 ml) was added thereto to give precipitates. The upper layer was removed by decantation and the precipitates was pulverized with ethyl ether (10 ml) to give 3-(N-aminoacetyl-N-hydroxyamino)propylphosphonic acid (40 mg) in the form of powder.

reactant | Hydrogen bromide acetic acid | 1 ml | Br.C(C)(=O)O
reactant | 3-[N-(N-benzyloxycarbonyl-aminoacetyl)-N-hydroxyamino]propylphosphonic acid | 200 mg | C(C1=CC=CC=C1)OC(=O)NCC(=O)N(O)CCCP(O)(O)=O | C13H19N2O7P
reactant | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 3-(N-aminoacetyl-N-hydroxyamino)propylphosphonic acid | 40 mg | NCC(=O)N(O)CCCP(O)(O)=O | C5H13N2O5P
